US07902369B2
1-(2-fluoropyridine-3-yl)-4-(1-oxo-4-hydroxy-indane-5-yl)-5-methyl-1H-[1,2,3]triazole
Three drops of 2 M sodium hydroxide aqueous solution was added at room temperature to 1 ml solution of tetrahydrofuran with 6 mg of 1-(2-fluoropyridine-3-yl)-4-(1-oxo-2-methylcarbonyloxy-indane-5-yl)-5-methyl-1H-[1,2,3]triazole, obtained in Example 45. After stirring at room temperature for 1 hour, the resultant was diluted with chloroform, washed with water and saturated saline solution, and dried with anhydrous sodium sulfate. The solvents were distilled outunder reduced pressure, and the obtained residues were purified by silicagel column chromatography (hexane:ethyl acetate=80:20) to obtain 1.3 mg of the above compound as a white solid.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 1-(2-fluoropyridine-3-yl)-4-(1-oxo-2-methylcarbonyloxy-indane-5-yl)-5-methyl-1H-[1,2,3]triazole | 6 mg | FC1=NC=CC=C1N1N=NC(=C1C)C=1C=C2CC(C(C2=CC1)=O)OC(=O)C | C19H15FN4O3
catalyst | sodium hydroxide | 2 M, Three drops | [OH-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-fluoropyridine-3-yl)-4-(1-oxo-4-hydroxy-indane-5-yl)-5-methyl-1H-[1,2,3]triazole | 1.3 mg | FC1=NC=CC=C1N1N=NC(=C1C)C=1C(=C2CCC(C2=CC1)=O)O | C17H13FN4O2
